US09212187B2
N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-(1-methyl-1H-indol-3-yl)-N-(2-pyridin-3-ylethyl)acetamide hydrochloride
To a solution of 1-ethyl-3,3,5-trimethyl-7-[(2-pyridine 3-ylethylamino)methyl]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.5 g), 1-methyl-3-indoleacetic acid(0.27 g), and 1-hydroxybenzotriazole (HOBT) (0.24 g) in acetonitrile (10 ml), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (WSC) (0.30 g) was added and stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure. Ethyl acetate and water were added to the residue and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=1:3→0:1). The purified product was condensed under reduced pressure. A 1N-hydrogen chloride in ethanol solution (1.1 ml) was added to a 2-propanol solution (5 ml) of the residue, and the liquid was stirred at room temperature, and concentrated under reduced pressure. Ethanol and ether were added to the residue. The precipitated insoluble matter was separated, washed with ether, and dried to give the title compound(0.26 g) as a pale orange white amorphous.

reactant | 1-ethyl-3,3,5-trimethyl-7-[(2-pyridine 3-ylethylamino)methyl]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.5 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CNCCC=2C=NC=CC2 | C22H28N4O2
reactant | 1-methyl-3-indoleacetic acid | 0.27 g | CN1C=C(C2=CC=CC=C12)CC(=O)O | C11H11NO2
reactant | 1-hydroxybenzotriazole | 0.24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.30 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethanol | 1.1 ml | C(C)O | C2H6O
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-(1-methyl-1H-indol-3-yl)-N-(2-pyridin-3-ylethyl)acetamide hydrochloride | 0.26 g | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(C(CC2=CN(C1=CC=CC=C21)C)=O)CCC=2C=NC=CC2 | InChI=1S/C33H37N5O3.ClH/c1-6-38-28-14-13-24(18-29(28)36(5)31(40)33(2,3)32(38)41)21-37(17-15-23-10-9-16-34-20-23)30(39)19-25-22-35(4)27-12-8-7-11-26(25)27;/h7-14,16,18,20,22H,6,15,17,19,21H2,1-5H3;1H
